US07834043B2
methyl 6-(tributylstannyl)-2-pyridinyl ether
A solution containing 2-bromo-6-methoxypyridine (0.65 mL, 5.3 mmol) in ether (11 mL) at −78° C. was treated with n-butyllithium (4.0 mL, 1.6 M in hexanes) dropwise, warmed to 0° C. for 10 minutes, cooled to −78° C., treated with tributyltin chloride (2.25 mL, 8.30 mmol), stirred at −78° C. for 0.5 hours, and then at 0° C. for 0.5 hours. The reaction was quenched with saturated ammonium chloride solution and partitioned between ether and water. The organic phase was washed with brine and dried over MgSO4, filtered and concentrated to give the title compound.

reactant | 2-bromo-6-methoxypyridine | 5.3 mmol, 0.65 mL | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | n-butyllithium | 1.6 M, 4.0 mL | C(CCC)[Li]
reactant | tributyltin chloride | 8.30 mmol, 2.25 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ether | 11 mL | CCOCC | C4H10O
product | methyl 6-(tributylstannyl)-2-pyridinyl ether | C(CCC)[Sn](C1=CC=CC(=N1)OC)(CCCC)CCCC | InChI=1S/C6H6NO.3C4H9.Sn/c1-8-6-4-2-3-5-7-6;3*1-3-4-2;/h2-4H,1H3;3*1,3-4H2,2H3;
